US03932453
3-chloro-N-chloromethyl-5-methyl-4-nitropyrazole
A mixture of 13.58 g (0.0708 mole) 1-hydroxymethyl-3-chloro-5-methyl-4-nitropyrazole and 30 ml of thionyl chloride was heated under reflux overnight and concentrated in vacuo. Benzene was added and the solution was concentrated again. This was replicated two more times. This left 15.8 g of an amber liquid. This was distilled at 155°-170° (air bath temperature)/1.25 mm to obtain a colorless liquid which crystallized upon standing. Recrystallization from benzene-Skelly B solvent gave 9.52 g of white crystals.

reactant | 1-hydroxymethyl-3-chloro-5-methyl-4-nitropyrazole | 0.0708 mole, 13.58 g | OCN1N=C(C(=C1C)[N+](=O)[O-])Cl | C5H6ClN3O3
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chloro-N-chloromethyl-5-methyl-4-nitropyrazole | 9.52 g | ClC1=NN(C(=C1[N+](=O)[O-])C)CCl | C5H5Cl2N3O2
